US07652041B2
Step 2: Preparation of 2-{2-[3-amino-5-(trifluoromethyl)phenyl]ethyl}-1H-isoindole-1,3(2H)-dione
Pd/C (10% by wt, 0.090 g) was added to a degassed solution of 2-{(E)-2-[3-amino-5-(trifluoromethyl)phenyl]vinyl}-1H-isoindole-1,3(2H)-dione (0.900 g, 2.71 mmol) in EtOH (56 mL) and THF (40 mL). The mixture was hydrogenated (50 psi) at rt until LC/MS indicated reaction was complete. The mixture was filtered through Celite and the filtrate was concentrated. The residue was purified by column chromatography (SiO2, 1:1 EtOAc:hexanes) to afford the desired product as a white solid (0.371 g, 40%). LCMS: (FA) ES+ 335.3 (M+1).

reactant | 2-{(E)-2-[3-amino-5-(trifluoromethyl)phenyl]vinyl}-1H-isoindole-1,3(2H)-dione | 2.71 mmol, 0.900 g | NC=1C=C(C=C(C1)C(F)(F)F)/C=C/N1C(C2=CC=CC=C2C1=O)=O | C17H11F3N2O2
solvent | EtOH | 56 mL | CCO | C2H6O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.090 g | [Pd] | Pd
product | 2-{2-[3-amino-5-(trifluoromethyl)phenyl]ethyl}-1H-isoindole-1,3(2H)-dione | 0.371 g, 40% | NC=1C=C(C=C(C1)C(F)(F)F)CCN1C(C2=CC=CC=C2C1=O)=O | C17H13F3N2O2
